US08865682B2
N-(3-{[(3E)-3-(5,5-Dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]amino}phenyl)acetamide
A 25 mL reaction flask was charged with (3E)-6-bromo-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-1,3-dihydro-2H-indol-2-one (100 mg, 0.26 mmol), N-(4-aminophenyl)acetamide (46 mg, 0.31 mmol), dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (4.9 mg, 0.012 mmol), Pd2(dba)3 (4.8 mg, 0.0052 mmol), 1M LiHMDS in THF (0.83 mL, 0.83 mmol) and dry THF (10 mL). The mixture was purged with nitrogen and heated in 62° C. bath under nitrogen for 2 hours. After cooling to room temperature, the reaction mixture was quenched with 0.5 mL of 2M HCl, and diluted with ethyl acetate (100 mL). The solution was washed with saturated NaHCO3 (2×50 mL), brine (50 mL), and concentrated to give the crude product. Purification of the crude product by silica gel chromatography with a gradient of methanol in chloroform (5-10%) led to N-(3-{[(3E)-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]amino}phenyl)acetamide as a yellow solid. Yield: 20 mg, 17%.

reactant | (3E)-6-bromo-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-1,3-dihydro-2H-indol-2-one | 0.26 mmol, 100 mg | BrC1=CC=C2\C(\C(NC2=C1)=O)=C\1/OC(C(=C1)N1CCOCC1)(C)C | C18H19BrN2O3
reactant | N-(4-aminophenyl)acetamide | 0.31 mmol, 46 mg | NC1=CC=C(C=C1)NC(C)=O | C8H10N2O
reactant | dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.012 mmol, 4.9 mg | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C | C26H36NP
reactant | LiHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.0052 mmol, 4.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 0.83 mmol, 0.83 mL | C1CCOC1 | C4H8O
product | N-(3-{[(3E)-3-(5,5-Dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]amino}phenyl)acetamide | CC1(C(=C/C(/O1)=C/1\C(NC2=CC(=CC=C12)NC=1C=C(C=CC1)NC(C)=O)=O)N1CCOCC1)C | C26H28N4O4
